US08124617B2
methyl 3-(2-tert-butoxy-2-oxoethoxy)-5-(2-fluorobenzyloxy)benzoate
Methyl 3-(2-fluorobenzyloxy)-5-hydroxybenzoate (1.9 g, 1.0 eq., 6.9 mmole) was reacted with tert-butyl bromoacetate (1.6 g, 1.2 eq., 8.3 mmole) in the presence of potassium carbonate (2.4 g., 2.5 eq., 17.3 mmole) in dimethylformamide (5 mL) over 18 h. The product was partitioned between ethyl acetate and aqueous media. The combined organic extracts were dried over magnesium sulfate, filtered and evaporated to give 2.4 g (89% yield) of a yellow oil. The LC/MS was as expected with an (M+H+) of 391 calculated and found.

reactant | Methyl 3-(2-fluorobenzyloxy)-5-hydroxybenzoate | 6.9 mmole, 1.9 g, 1.0 eq. | FC1=C(COC=2C=C(C(=O)OC)C=C(C2)O)C=CC=C1 | C15H13FO4
reactant | tert-butyl bromoacetate | 8.3 mmole, 1.6 g, 1.2 eq. | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 17.3 mmole, 2.4 g, 2.5 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl 3-(2-tert-butoxy-2-oxoethoxy)-5-(2-fluorobenzyloxy)benzoate | 2.4 g, 89% yield | C(C)(C)(C)OC(COC=1C=C(C(=O)OC)C=C(C1)OCC1=C(C=CC=C1)F)=O | C21H23FO6
